US07759518B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopentanesulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with cyclopentanesulfonyl chloride to obtain the desired product 1H NMR (300 MHz, CDCl3): δ 7.42 (dd, J=2.1 & 10.5 Hz, 1H), 7.36 (ddd, J=2.4, 4.8, & 9.3 Hz, 1H), 7.25 (m, 2H), 7.10 (dd, J=9.6 & 17.7 Hz, 1H), 6.67 (br s, D2O exchangeable, 1H), 6.20 (dt, J=1.5, 8.4 & 17.4 Hz, 1H), 3.53 (p, 1H), 1.80 (m, 8H); m/z=495 [M−1]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | cyclopentanesulfonyl chloride | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopentanesulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1CCCC1)NC1=C(C=C(C=C1)I)F | C17H16F3IN2O2S
